US06498165B1
2-[2-Bromobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-bromobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (CI): m/e 380.2, 382.2 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.60 (s, 1H); 8.44 (br s, 1H); 8.02 (br s, 1H); 7.85 (m, 1H); 7.64 (d, J=5.6 Hz, 1H); 7.48 (d, J=7.3 Hz, 1H); 7.18 (m, 1H); 6.86 (d, J=5.5 Hz, 1H); 6.18 (br s, 1H); 4.83 (d, J=6.4 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-bromobenzylamine | BrC1=C(CN)C=CC=C1 | C7H8BrN
product | 2-[2-Bromobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | BrC1=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC=C1 | C18H14BrN5
